US06734302B2
4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl chloride (200 mg, 0.41 mmol) was added a solution of triethylamine (0.23 mL, 1.64 mmol) and 4-(1-pyrrolidinyl)-piperidine (0.11 g, 0.70 mmol) in methylene chloride (8 mL) at 0° C. over 15 min. After 30 min, the reaction was worked up with water. The mixture was extracted with methylene chloride and washed with water and brine. The organic extracts were dried over sodium sulfate and evaporated. Chromatography of the residue over silica gel using 1-2% methanol in methylene chloride gave [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone (0.18 g, 72%) as an off-white foam. HR-MS (ES, m/z) calculated for C34H39N4O2Cl2[(M+H)+]605.2445, observed 605.2448

reactant | 4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl chloride | 0.41 mmol, 200 mg | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=CC=C1)OC(C)C | C25H21Cl3N2O2
reactant | triethylamine | 1.64 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(1-pyrrolidinyl)-piperidine | 0.70 mmol, 0.11 g | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | water | O | H2O
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 0.18 g, 72% | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCC(CC1)N1CCCC1)C1=C(C=CC=C1)OC(C)C | C34H38Cl2N4O2
